US06900215B2
To a suspension of 3-(4-fluoro-3-nitrophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.819 g, 2.51 mmol) in ethanol (10 ml) was added anhydrous tin(II) chloride (2.0 g). After stirring at ambient temperature for 2 h the resulting solution was treated with 30% ammonium hydroxide (40 ml). This mixture was stirred for 10 min then concentrated at reduced pressure. The residue was then treated with ethanol and evaporated at reduced pressure to remove residual water. This residue was then boiled with 10% methanol in dichloromethane and insoluble material removed by filtration. The filtrate was evaporated in vacuo, the residue treated with a hot solution of 50% toluene in ethyl acetate and insoluble material removed by filtration. The filtrate was evaporated at reduced pressure and the residue crystallised from hot toluene to furnish 2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenylamine: δH (400 MHz, DMSO) 5.42 (2H, br), 6.87 (1H, m), 7.07 (1H, dd, J 9 and 2), 7.20 (1H, dd, J 12 and 8), 7.50 (1H, d, J 7), 8.13 (1H, s), 9.18 (1H, d, J 7); m/z (ES+) 297 (M++H).

reactant | 3-(4-fluoro-3-nitrophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 2.51 mmol, 0.819 g | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)[N+](=O)[O-] | C13H6F4N4O2
reactant | tin(II) chloride | 2.0 g | [Sn](Cl)Cl
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenylamine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)N | C13H8F4N4
